US06455521B1
In the same manner as in Example 125 and using 2-methyl-7-nitrothieno[2,3-b][1,5]benzoxazepin-4(5H)-one, phosphorus oxychloride, N,N-dimethylaniline and 1-methylpiperazine, 2-methyl-4-(4-methylpiperazin-1-yl)-7-nitrothieno[2,3-b][1,5]benzoxazepine is obtained.

reactant | 2-methyl-7-nitrothieno[2,3-b][1,5]benzoxazepin-4(5H)-one | CC1=CC2=C(OC3=C(NC2=O)C=C(C=C3)[N+](=O)[O-])S1 | C12H8N2O4S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-methyl-4-(4-methylpiperazin-1-yl)-7-nitrothieno[2,3-b][1,5]benzoxazepine | CC1=CC2=C(OC3=C(N=C2N2CCN(CC2)C)C=C(C=C3)[N+](=O)[O-])S1 | C17H18N4O3S
